Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Parasthesias/weakness

 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
The pt is a ___ year-old R-handed M w/ PMH of ___ disease,
lumbosacral radiculopathy and ___'s Thyroiditis who
presents with parasthesias and subjective weakness. Hx obtained
from pt at bedside.

Pt reports that after returning home from vacation in ___
3.5 weeks ago he began to develop weakness in his ___,
feeling like his legs giving out. No associated difficulty with
ambulation, although a few times felt that his knees buckled. Pt
also endorses some associated low grade fevers ("100.2, 100.3")
and fatigue. 1 week later, he began to notice parasthesias 
("pins
and needles") and twitching sensation start in his feet,
gradually progressing in the following weeks up his legs now to
his hips. Around 1.5 weeks ago, he noticed similar sensation in
his hands which has now spread up to elbows. Alongside these
sensory sx, pt also endorses intermittent burning sensation in
his arms and legs, particular spreading out from his upper shins
to dorsum of feet sparing toes. Around 3 days ago, he also
experienced some burning/aching pain in his spine (points to
lower thoracic) which has recurred since then frequently. Today,
he began to feel weak in his R hand, particularly when trying to
usesteering wheel and writing on piece of paper (had to write
letters bigger for them to be clear). He noticed this weakness
particularly in ___ digits. Due to these constellation of 
sx,
pt presented to ED for evaluation.   

Pt denies significant pain in his neck and no shooting pains 
down
his arms or legs. Of note, pt has hx of spinal stenosis w/
resulting sciatic pain but well controlled on personalized
regimen. Denies bowel/bladder issues, weight loss, or night
sweats. No recent trauma. Endorses intermittent mild headaches,
aching in nature, which wrap  around posterior aspect of head 
and
have no noted exacerbating features. Pt admits to receiving some
mosquito bites while on vacation, but no prior illnesses or sick
contacts. No dry mouth, chest pain/pressure, coughing, or SOB.
Denies dysarthria, dysphagia, choking on food, diplopia, or
decreased visual acuity. 

Pt's recent ___ diagnosis was made after pt was found to have
knee swelling over the last few years with repeat taps negative
for infectious/inflammatory arthritides. He was treated w/ gout
medications with effect so no further diagnostics undertaken.
However, pt spoke to his doctor about also developing R facial
numbness the year before, resolving spontaneously, and thus
doctor sent out for ___ in ___ which came back positive.
Pt has been successfully treated w/ Doxycycline and Cefuroxime,
the former completed this past ___. 

Neuro ROS + for occaisonal lightheadedness, persistent tinnitus
over last week

General ROS negative except as noted above

 
Past Medical History:
Gout
___'s Thyroiditis
L4-S1 radiculopathy s/p LESI in ___, well-controlled
Ab-confirmed ___ dx ___

 
Social History:
___
Family History:
___ Arthritis                        
 
Physical Exam:
Admission Physical Exam:
Vitals: T: 97.8 P: 73 BP: 175/91 RR: 18 O2sat: 98% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis
noted. No clear fasciculations.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, or proprioception throughout extremities with
attention to root and peripheral nerve distributions. No
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor noted. No dysmetria on FNF or
HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  

Discharge Physical Exam: 
Vitals: T: 97.8 P: 73 BP: 175/91 RR: 18 O2sat: 98% RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Intact

-Cranial Nerves:
II, III, IV, VI:  PERRL 4->3.5 b/l and brisk. EOMI without
nystagmus. Normal saccades.  .
VII: No facial droop, facial musculature symmetric with full 
strength.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No tremors

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     
R  5    ___   ___  5   5    5  5     5
 
-Sensory: No deficits to light touch throughout. Reports 
decreased sensation V2-3 L face, intact elsewhere. Decreased PP 
in gradient distal vs proximal UE bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor noted. No dysmetria on FNF 
bilaterally.

-Gait: Normal, narrow-based, normal arm swing bilaterally.

 
Pertinent Results:
LABS: 
___ 07:30AM BLOOD WBC-3.8* RBC-5.27 Hgb-14.3 Hct-43.7 
MCV-83 MCH-27.1 MCHC-32.7 RDW-13.6 RDWSD-40.7 Plt ___
___ 07:40PM BLOOD WBC-4.6 RBC-5.27 Hgb-14.5 Hct-43.3 MCV-82 
MCH-27.5 MCHC-33.5 RDW-13.5 RDWSD-39.8 Plt ___
___ 07:40PM BLOOD Neuts-43.4 ___ Monos-9.3 Eos-4.1 
Baso-0.9 AbsNeut-2.01 AbsLymp-1.96 AbsMono-0.43 AbsEos-0.19 
AbsBaso-0.04
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD ___ PTT-27.8 ___
___ 07:40PM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-95 UreaN-13 Creat-0.9 Na-144 
K-4.1 Cl-105 HCO3-29 AnGap-10
___ 07:40PM BLOOD Glucose-99 UreaN-10 Creat-0.9 Na-144 
K-3.9 Cl-106 HCO3-27 AnGap-11
___ 07:40PM BLOOD ALT-41* AST-22 CK(CPK)-94 AlkPhos-42 
TotBili-0.6
___ 07:40PM BLOOD cTropnT-<0.01
___ 07:30AM BLOOD Calcium-9.4 Phos-4.2 Mg-2.1
___ 07:40PM BLOOD Albumin-4.5 Calcium-9.5 Phos-2.9 Mg-1.9
___ 07:30AM BLOOD TSH-0.53
___ 07:30AM BLOOD RheuFac-<10 ___ CRP-0.5
___ 07:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 01:22AM CEREBROSPINAL FLUID (CSF) TNC-1 RBC-1 Polys-0 
___ ___ 01:22AM CEREBROSPINAL FLUID (CSF) TotProt-45 Glucose-58
___ 01:24AM CEREBROSPINAL FLUID (CSF) BORRELIA BURGDORFERI 
ANTIBODY INDEX FOR CNS INFECTION-PND

IMAGING:
# MRI C-SPINE W/WO CONTRAST: No signal abnormality or abnormal 
enhancement within the cervical spinal cord.

 
Brief Hospital Course:
___ y/o M with a PMH of ___, spinal stenosis, lumbosacral 
radiculopathy, and ___'s thyroiditis admitted for 3.5 
weeks of subjective weakness in the ___ LLE, low-grade fevers, 
paresthesias and fasciculations in the legs gradually spreading 
up to the hip and then in the ___ hand to the elbow, along with 
intermittent burning sensation in the arms and legs. Neurologic 
exam with intact cranial nerves, mental status, muscle strength, 
DTRs, cerebellar exam, and mild sensory gradient with decreased 
loss of pinprick sensation distally greater than proximally. 
Gait is antalgic. LP done in the ED was normal (1 RBC, 1 WBC, 
protein 45, glucose 58). MRI c-spine unremarkable. Autoimmune 
screening labs sent ___, CRP, RF, ESR) as well as ___ titers 
which will be followed in neurology clinic. At this time, 
etiology likely non specific viral infection and possible 
recrudescence of his prior lumbosacral disease, as his symptoms 
are somewhat out of proportion to his exam but relatively 
stable.

Transitional Issues: 
# Follow serum autoimmune work up: ___, ANCA, ACE, Sjogrens, RF
# Follow ___ in CSF
# Follow up in neurology clinic as documented
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 15 mg PO QHS 
2. Piroxicam 20 mg PO DAILY 
3. Colcrys (colchicine) 0.6 mg oral DAILY 
4. Levothyroxine Sodium 225 mcg PO DAILY 
5. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1.  Colcrys (colchicine) 0.6 mg oral DAILY  
2.  Levothyroxine Sodium 225 mcg PO DAILY  
3.  Mirtazapine 15 mg PO QHS  
4.  Piroxicam 20 mg PO DAILY  
5.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral illness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 
You were hospitalized due to symptoms of general, malaise and 
leg weakness concerning for a sub acute viral infections. We 
performed a lumbar puncture which did not show evidence of acute 
neurological disease. We also imaged your cervical spine with an 
MRI which did not show evidence of spinal cord lesions. At this 
point your exam remains stable which is reassuring. We will 
discharge you home with instructions of calling ___ to 
schedule a neurology follow up appointment with Dr. ___ 
___ Dr. ___.  We did not change your medications. Please 
take your other medications as prescribed. Please follow up with 
Neurology and your primary care physician as listed below. If 
you experience any of the symptoms below, please seek emergency 
medical attention by calling Emergency Medical Services (dialing 
911). In particular, since stroke can recur, please pay 
attention to the sudden onset and persistence of these symptoms: 
 

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
 
Your ___ Neurology Team
 
Followup Instructions:
___